US08629169B2
STEP 5: (1S,2R,3S,4S,5R,6R)-2-Amino-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid
Water (1.10 L) and 12.18M hydrogen chloride in water (789.88 mL, 9.62 mol) is added to a solution of di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate (550.00 g, 962.07 mmol) in 1,4-dioxane (192.41 mL). The resulting slurry is stirred at 100° C. After 12 hours, the reaction is then cooled to 25° C., stirred for 12 hours, and then basified with NaOH (50% wt/wt) to pH=2.65. The resulting mixture is stirred at 10° C. for 30 minutes whereupon the precipitate is collected by filtration, washed with water (1 L) and methyl tert-butyl ether (1 L), and dried for 2 hours at 25° C., and then at 60° C. in a oven until constant weight to yield the title compound (300 g, 87% yield). MS (m/z): 360 (M+1).

reactant | Water | 1.10 L | O | H2O
reactant | hydrogen chloride | 12.18M | Cl | ClH
reactant | water | 9.62 mol, 789.88 mL | O | H2O
reactant | di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate | 962.07 mmol, 550.00 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC(=C(C=C1)F)F)O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C28H39F2NO7S
reactant | NaOH | [OH-].[Na+]
solvent | 1,4-dioxane | 192.41 mL | O1CCOCC1 | C4H8O2
product | (1S,2R,3S,4S,5R,6R)-2-Amino-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylic acid | 300 g, 87% yield | N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC(=C(C=C1)F)F)O)C(=O)O)C(=O)O | C15H15F2NO5S
